US04742057
To a solution of 3-(1-acetyl-4-piperidyl)indole (48.2 g) in acetic acid (1 l) was added sodium cyanoborohydride (95 g) at 15° to 20° C. slowly over a period of 1.5 hours with stirring. The mixture was further stirred at ambient temperature for 3 hours, after which a further amount (10 g) of sodium cyanoborohydride was added. The mixture was stirred for 1 hour and the reaction mixture was diluted with water (500 ml), concentrated under reduced pressure, and allowed to stand overnight. To this reaction mixture was added 2N aqueous sodium hydroxide solution (1.5 l), and the mixture was extracted with ethyl acetate (1 l) 3 times. The extract was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. The solvent was distilled off and the residue was dissolved in a mixture of tetrahydrofuran (200 ml) and 2N aqueous sodium hydroxide solution (300 ml). The solution was stirred at ambient temperature for 2 hours, after which it was concentrated under reduced pressure. The residue was extracted with ethyl acetate (600 ml) and the extract was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. The solvent was distilled off and the residue was subjected to column chromatography on silica gel, elution being carried out with a mixture of chloroform and methanol (50:1 V/V) to give 3-(1-acetyl-4-piperidyl)indoline (41.1 g).

reactant | 3-(1-acetyl-4-piperidyl)indole | 48.2 g | C(C)(=O)N1CCC(CC1)C1=CNC2=CC=CC=C12 | C15H18N2O
reactant | sodium cyanoborohydride | 95 g | C(#N)[BH3-].[Na+]
reactant | sodium cyanoborohydride | 10 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 1 l | C(C)(=O)O | C2H4O2
solvent | water | 500 ml | O | H2O
product | 3-(1-acetyl-4-piperidyl)indoline | 41.1 g | C(C)(=O)N1CCC(CC1)C1CNC2=CC=CC=C12 | C15H20N2O
